US07022707B2
4-(2-Oxo-2-phenylethoxy)benzyl 4-tert-butoxycarbonylpiperazine-1-thiocarboxylate:
a mixture of 4-hydroxybenzyl 4-tert-butoxycarbonylpiperazine-1-thiocarboxylate (100 mg, 0.28 mmol), cesium carbonate (140 mg, 1.5 eq) and α-bromoacetophenone (84 mg, 1.5 eq) in DMF was shaken at ambient temperature for 16 h. The reaction mixture was poured into water (30 mL) and extracted with ethyl acetate (3×20 mL). The organic extracts were washed with water (30 mL), dried (MgSO4) and condensed to give the desired product (129 mg, 96%) as a yellow oil: NMR δH(400 MHz; d6-DMSO) 1.40 (9H, s), 3.30–3.36 (4H, m), 3.43 (4H, br s), 4.07 (2H, s), 5.54 (2H, s), 6.86–6.91 (2H, m), 7.20–7.26 (2H, m), 7.54–7.60 (2H, m) and 7.66–7.72 (1H, m); HPLC (XTERRA, 50/80, 220 nm) 96.1% (6.56 min).

reactant | 4-hydroxybenzyl 4-tert-butoxycarbonylpiperazine-1-thiocarboxylate | 0.28 mmol, 100 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(OCC1=CC=C(C=C1)O)=S | C17H24N2O4S
reactant | cesium carbonate | 140 mg, 1.5 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | α-bromoacetophenone | 84 mg, 1.5 eq | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | water | 30 mL | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(2-Oxo-2-phenylethoxy)benzyl 4-tert-butoxycarbonylpiperazine-1-thiocarboxylate | 129 mg, 96% | C(C)(C)(C)OC(=O)N1CCN(CC1)C(OCC1=CC=C(C=C1)OCC(C1=CC=CC=C1)=O)=S | C25H30N2O5S
